US03998894
A mixture of 90 parts of styrene, 183 parts of o-chlorostyrene and 117 parts of o-chloroethylbenzene is added to a mixture of 722 parts of 93 per cent strength by weight phosphoric acid and 7.5 parts of 65 per cent strength by weight nitric acid at 35° to 40° C over 5 hours. The emulsion is stirred for a further 2 hours at 35° to 40° C and the organic phase is then separated off and washed with 200 parts of 3 per cent strength by weight sodium hydroxide solution. Fractional distillation at 10 mm Hg gives 26 parts of 1-methyl-3-phenylindan and 148.5 parts of 1-methyl-3-(o-chloro)-phenylindan (b.p. 165° to 168° C (10 mm), nD25 : 1.5890).

reactant | styrene | C=CC1=CC=CC=C1 | C8H8
reactant | o-chlorostyrene | ClC1=C(C=C)C=CC=C1 | C8H7Cl
reactant | o-chloroethylbenzene | ClCCC1=CC=CC=C1 | C8H9Cl
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 1-methyl-3-phenylindan | CC1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H16
